US05023236
Cbz-L-LeuOH (0.01 mol) was coupled to L-ProOMe (0.01 mol) to form Cbz-L-Leu-L-ProOMe which was then deesterified to yield Cbz-L-Leu-L-ProOH, using the procedure outlined in Example 8 for the preparation of Cbz-L-Asn-L-(O-t-butyl)-ThrOH.

reactant | Cbz-L-LeuOH | 0.01 mol | N([C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | L-ProOMe | 0.01 mol | N1[C@H](C(=O)OC)CCC1 | C6H11NO2
product | Cbz-L-Leu-L-ProOMe | N([C@@H](CC(C)C)C(=O)N1[C@H](C(=O)OC)CCC1)C(=O)OCC1=CC=CC=C1 | C20H28N2O5
